US07091214B2
The method described in Part A of Examples 142–144 was used to treat tert-butyl 4-[(3-amino-7-bromoquinolin-4-ylamino)methyl]piperidine-1-carboxylate (15.0 g, 34.5 mmol) with trimethyl orthobutyrate (5.62 g, 37.9 mmol). After completion, the reaction mixture was concentrated under reduced pressure, and the residue was purified by flash column chromatography on silica gel (eluting with 95:5 chloroform:CMA) followed by recrystallization from ethyl acetate to provide 13.1 g of tert-butyl 4-[(7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]piperidine-1-carboxylate as a white solid, mp 215–216° C.

reactant | tert-butyl 4-[(3-amino-7-bromoquinolin-4-ylamino)methyl]piperidine-1-carboxylate | 34.5 mmol, 15.0 g | NC=1C=NC2=CC(=CC=C2C1NCC1CCN(CC1)C(=O)OC(C)(C)C)Br | C20H27BrN4O2
reactant | trimethyl orthobutyrate | 37.9 mmol, 5.62 g | C(CCC)(OC)(OC)OC | C7H16O3
product | tert-butyl 4-[(7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]piperidine-1-carboxylate | 13.1 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC3CCN(CC3)C(=O)OC(C)(C)C)CCC | C24H31BrN4O2
